US08614206B2
A solution of 2-azido-5-fluoro-5-(1-methyl-4-nitro-1H-pyrazol-5-yl)cycloheptanol (280 mg, 094 mmol) in THF/water (20 mL/4 mL) was treated with triphenylphosphine (270 g, 1.03 mmol) and the mixture was heated at 60° C. behind a blast screen for 18 hr. The solvents were removed under reduced pressure and the residue was purified via a SCX cartridge washing with MeOH and eluting with 3 N NH3 in MeOH to give 2-amino-5-fluoro-5-(2-methyl-4-nitro-pyrazol-3-yl)cycloheptanol as a colourless oil. To a solution of this oil (256 mg, 0.94 mmol) in dry DCM (20 mL) at 0° C. was added slowly DIPEA (0.49 mL, 2.82 mmol) followed by trifluoroacetic anhydride (0.16 ml, 1.13 mmol) dropwise. The reaction mixture was allowed to warm to room temperature and stirred for 18 hr. Water (20 mL) was added and the mixture was extracted with DCM (100 mL). The organic layer was passed through a phase separation cartridge and concentrated under reduced pressure. Purification via silica gel column chromatography (30-50% EtOAc/isohexane) gave 2,2,2-trifluoro-N-(5-fluoro-2-hydroxy-5-(2-methyl-4-nitro-pyrazol-3-yl)cycloheptyl)acetamide as a pale yellow oil (130 mg, 38% over two steps). 1H NMR (400 MHz, CDCl3) δ 8.07 and 8.06 (2s, 1H), 6.53 (s, 1H), 4.08 and 4.06 (2s, 3H), 4.05-3.92 (m, 2H), 3.06-2.69 (m, 3H), 2.32-1.89 (m, 6H).

reactant | 2-azido-5-fluoro-5-(1-methyl-4-nitro-1H-pyrazol-5-yl)cycloheptanol | 280 mg | N(=[N+]=[N-])C1C(CCC(CC1)(C1=C(C=NN1C)[N+](=O)[O-])F)O | C11H15FN6O3
reactant | triphenylphosphine | 1.03 mmol, 270 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF water | 20 mL | C1CCOC1.O
product | 2-amino-5-fluoro-5-(2-methyl-4-nitro-pyrazol-3-yl)cycloheptanol | NC1C(CCC(CC1)(C=1N(N=CC1[N+](=O)[O-])C)F)O | C11H17FN4O3
